US06566377B2
Benzyl-[2-(4-acetyl-phenoxy)-ethyl]-carbamate
In around-bottomed flask equipped with a mechanical stirrer, 4-hydroxyacetophenone (5.00 g, 36.7 mmol) was dissolved in toluene (122 ml), and triphenylphosphine (14.4 g, 55.1 mmol), and benzyl N-(2-hydroxyethyl)carbamate (10.8 g, 55.1 mmol) were added. The reaction mixture was cooled to about 0° C., and 1,1′-(azodicarbonyl)dipiperidine (13.9 g, 55.1 mmol) was added in one portion. The mixture was allowed to warm to room temperature, and after stirring for about ten minutes, an additional 122 ml of toluene and 122 ml of tetrahydrofuran were added to the thick orange solution. The mixture was stirred for an additional twenty-four hours, and the solids were filtered off. The filtrate was concentrated in vacuo and the resulting solid was purified by column chromatography (silica gel; hexanes to 2:1 hexanes/ethyl acetate) to afford 9.68 g (84% yield) of the desired product as a white solid. LRMS ([M−1]−)=312.2.

reactant | 4-hydroxyacetophenone | 36.7 mmol, 5.00 g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | triphenylphosphine | 55.1 mmol, 14.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzyl N-(2-hydroxyethyl)carbamate | 55.1 mmol, 10.8 g | OCCNC(OCC1=CC=CC=C1)=O | C10H13NO3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 55.1 mmol, 13.9 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 122 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 122 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 122 ml | O1CCCC1 | C4H8O
product | Benzyl-[2-(4-acetyl-phenoxy)-ethyl]-carbamate | 9.68 g, 84% yield | C(C1=CC=CC=C1)OC(NCCOC1=CC=C(C=C1)C(C)=O)=O | C18H19NO4
